data/nitro/train.csv
rxn,smiles,ea
140,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[Br:17])(\[C:18]([H:19])([H:20])[H:21])[c:22]1[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]1[H:32]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[Br:17])([C:18]([H:19])([H:20])[H:21])[c:22]1[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]1[H:32],-3.9401690103097926
968,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[C:22]([H:23])([H:24])[H:25])([H:26])[H:27]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[C:22]([H:23])([H:24])[H:25])([H:26])[H:27],-8.707624548293667
254,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Cl:20])([Cl:21])[Cl:22]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Cl:20])([Cl:21])[Cl:22],0.1690516799280735
933,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Cl:24])(\[H:25])[c:26]1[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]([H:34])[c:35]1[H:36]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Cl:24])([H:25])[c:26]1[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]([H:34])[c:35]1[H:36],-10.115019111711144
896,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Cl:22])(\[H:23])[Br:24]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Cl:22])([H:23])[Br:24],-8.746307997367321
328,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[C:22]([H:23])([H:24])[H:25])(\[Cl:26])[c:27]1[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]([H:35])[c:36]1[H:37]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[C:22]([H:23])([H:24])[H:25])([Cl:26])[c:27]1[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]([H:35])[c:36]1[H:37],-2.883869762403647
914,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[H:12])(\[H:13])[Br:14]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[H:12])([H:13])[Br:14],-13.822953768475813
684,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[C:17]([H:18])([H:19])[H:20])(\[c:21]1[c:22]([H:23])[c:24]([H:25])[c:26]([H:27])[c:28]([H:29])[c:30]1[H:31])[Br:32]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[C:17]([H:18])([H:19])[H:20])([c:21]1[c:22]([H:23])[c:24]([H:25])[c:26]([H:27])[c:28]([H:29])[c:30]1[H:31])[Br:32],-3.3271989307427177
488,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[C:22]([H:23])([H:24])[H:25])([Br:26])[Br:27]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[C:22]([H:23])([H:24])[H:25])([Br:26])[Br:27],-5.767771527737382
45,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[C:24]([H:25])([H:26])[H:27])(\[C:28]([H:29])([H:30])[H:31])[Cl:32]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[C:24]([H:25])([H:26])[H:27])([C:28]([H:29])([H:30])[H:31])[Cl:32],-9.023604433891272
142,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Br:20])(\[C:21]([H:22])([H:23])[H:24])[c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Br:20])([C:21]([H:22])([H:23])[H:24])[c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35],3.9260575775355218
